US08053457B2
(4-Benzyl-piperidin-1-yl)-acetonitrile
The title compound is synthesized by coupling of 4-Benzyl-piperidine and bromoacetonitrile analogously to the preparation of Intermediate 149.2 as a colorless oil; ES-MS: M+=215.2: AtRet=2.90.

reactant | 4-Benzyl-piperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | bromoacetonitrile | BrCC#N | C2H2BrN
product | (4-Benzyl-piperidin-1-yl)-acetonitrile | C(C1=CC=CC=C1)C1CCN(CC1)CC#N | C14H18N2
